US05302373
A solution is formed of the ethanol, water and sorbitol ingredients. The Pluronic F-108 is added, followed by sodium bicarbonate and zinc oxide and the other ingredients in the listed order with high speed stirring.

reactant | ethanol | C(C)O | C2H6O
reactant | water | O | H2O
product | sorbitol | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
